US07842685B2
Reaction of 3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)benzoic acid (0.080 g, 0.20 mmol) and ethyl 4-aminobutyrate hydrochloride, according to Reference S and the general procedure for amide formation afforded ethyl 4-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)benzamido)butanoate. MS (ESI) m/z: Calculated: 503.2; Observed: 504.1 (M++1).

reactant | 3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)benzoic acid | 0.20 mmol, 0.080 g | FC=1C=C(C(=O)O)C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C22H15FN2O2S
reactant | ethyl 4-aminobutyrate hydrochloride | Cl.NCCCC(=O)OCC
product | ethyl 4-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)benzamido)butanoate | FC=1C=C(C(=O)NCCCC(=O)OCC)C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C28H26FN3O3S
